data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_254965_0,[C@@:1]1([O:6][H:8])([H:10])[C:2]([H:11])([H:12])[N:7][C:5]([C:3]([H:13])([H:14])[H:15])[N:4]1[H:9]>>[C@@:1]1([O:6][H:8])([H:10])[C:2]([H:11])([H:12])[N:7]1/[C:5]([C:3]([H:13])([H:14])[H:15])=[N:4]/[H:9],63.88201000000976
MR_570015_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])([C:5](/[C:6]([C:4]([H:18])([H:19])[H:20])=[N:8]/[H:11])=[O:9])[O:7][H:10]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:5]([C:3]([H:15])([H:16])[H:17])(/[C:6]([C:4]([H:18])([H:19])[H:20])=[N:8]/[H:11])[O:9][H:10])=[O:7],42.98688749997439
MR_237235_1,[C:1]([C:2]([H:14])([H:15])[H:16])([C:5]([N:4](/[C:6]([C:3]([H:17])([H:18])[H:19])=[N:8]\[H:13])[H:11])=[O:9])([O:7][H:10])[H:12]>>[C:1]1([C:2]([H:14])([H:15])[H:16])([H:12])[C:5](=[O:9])[N:4]([H:11])[C:6]([C:3]([H:17])([H:18])[H:19])([N:8]([H:10])[H:13])[O:7]1,48.76929999999959
MR_348616_0,[C@:1]1([C:2]([H:17])([H:18])[H:19])([N:5]([H:10])[H:11])[C@@:7](/[C:4]([N:6]([H:12])[H:13])=[N:9]/[H:14])([H:15])[C@:8]1([C:3]([H:20])([H:21])[H:22])[H:16]>>[C:1]([C:2]([H:17])([H:18])[H:19])(/[C:4]([N:6]([H:12])[H:13])=[N:9]/[H:14])([N:5]([H:10])[H:11])/[C:7](=[C:8](\[C:3]([H:20])([H:21])[H:22])[H:16])[H:15],65.05041500002037
MR_156541_0,[C:1](/[C:3]([N:2]([O:4][H:7])[H:9])=[N:6]\[O:5][H:8])([H:10])([H:11])[H:12]>>[C:1](/[C:3](=[N:2]\[H:9])[N:6]([O:4][H:7])[O:5][H:8])([H:10])([H:11])[H:12],70.15889249996363
MR_190672_1,[C:1]1([H:9])([H:10])[N:4]([C:2]([H:13])([H:14])[H:15])[C:6]2([H:11])[C:5]1([C:3]([H:16])([H:17])[H:18])[C:7]([H:12])=[N:8]2>>[C:1]1([H:9])([H:10])[N:4]([C:2]([H:13])([H:14])[H:15])[C:6]([H:11])=[N:8][C:7]([H:12])=[C:5]1[C:3]([H:16])([H:17])[H:18],25.07992000002787
MR_19375_0,[C:1]([N:3](/[C:4]([C:2]([H:14])([H:15])[H:16])=[C:6](\[N:5]([H:8])[H:9])[H:10])[H:7])([H:11])([H:12])[H:13]>>[C:1](/[N:3]=[C:4](\[C:2]([H:14])([H:15])[H:16])[C:6]([N:5]([H:8])[H:9])([H:7])[H:10])([H:11])([H:12])[H:13],68.53304000000222
MR_577651_1,[C@:1]([C:2]([O:7][H:10])([H:12])[H:13])([C:3]([C:4](=[C:5]([H:15])[H:16])[H:14])=[O:8])([O:6][H:9])[H:11]>>[C@:1]([C:3]([C:2]([O:7][H:10])([H:12])[H:13])=[O:8])([C:4](=[C:5]([H:15])[H:16])[H:14])([O:6][H:9])[H:11],69.53076499998005
MR_13963_1,[C:1]([C:4]([N:3](/[C:5](=[C:6](/[C:2]([H:14])([H:15])[H:16])[H:10])[H:9])[H:8])=[O:7])([H:11])([H:12])[H:13]>>[C:1]([C:4]([C:6]([C:2]([H:14])([H:15])[H:16])(/[C:5](=[N:3]/[H:8])[H:9])[H:10])=[O:7])([H:11])([H:12])[H:13],60.06994750003926
MR_533753_0,[C:1]([C:2]([C:5]([H:19])([H:20])[H:21])([N:6]([C:3]([H:13])([H:14])[H:15])[H:10])[H:12])([C:4]([H:16])([H:17])[H:18])([O:7][O:8][H:9])[H:11]>>[C:1]([C:2]([C:5]([H:19])([H:20])[H:21])([O:7][O:8][H:9])[H:12])([C:4]([H:16])([H:17])[H:18])([N:6]([C:3]([H:13])([H:14])[H:15])[H:10])[H:11],69.21324999999698
MR_235683_0,[C:1]([N:3](/[C:5](=[N:7]\[H:9])[H:10])[O:6][C:4]([C:2]([H:14])([H:15])[H:16])=[O:8])([H:11])([H:12])[H:13]>>[C:1]([N:3]1[C@@:4]([C:2]([H:14])([H:15])[H:16])([O:8]/[C:5](=[N:7]\[H:9])[H:10])[O:6]1)([H:11])([H:12])[H:13],68.27074499998673
MR_101357_0,[C:1]([N:3]([C:2]([H:12])([H:13])[H:14])[C:4](=[O:6])[H:8])([C:5](=[O:7])[H:11])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[N:3]([C:2]([H:12])([H:13])[H:14])[C:5]1([O:7][C:4](=[O:6])[H:8])[H:11],64.27043249999215
MR_75660_1,[C:1]([C:3]([C:6]([C:2]([O:8][H:11])([H:12])[H:13])([C:5]([H:19])([H:20])[H:21])[O:9][H:10])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])=[O:7]>>[C:1]([C:2]([O:8][H:11])([H:12])[H:13])([C:3]([C:6]([C:5]([H:19])([H:20])[H:21])=[O:9])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])[O:7][H:10],65.03661000001955
MR_203949_1,[C:1](=[C:4]([H:18])[H:20])([N:6](/[C:7](=[C:8](\[C:2]([N:5]([C:3]([H:15])([H:16])[H:17])[H:19])([H:11])[H:12])[H:14])[H:13])[H:9])[H:10]>>[C:1]1([C:4]([H:18])([H:19])[H:20])([H:10])[N:5]([C:3]([H:15])([H:16])[H:17])[C:2]([H:11])([H:12])[C:8]([H:14])=[C:7]([H:13])[N:6]1[H:9],64.78749250000646
MR_299904_0,[n:1]1([O:6][H:9])[c:3](=[O:8])[n:2]([H:10])[n:7][c:4]1[N:5]([H:11])[H:12]>>[N:1](=[C:4](\[N:5]([H:11])[H:12])[N:7]1[N:2]([H:10])[C:3]1=[O:8])\[O:6][H:9],71.39820499997356
MR_640499_1,[C:1]([C:4]12[N:2]([H:9])[C:3]1(/[C:5](=[N:8]\[H:10])[H:11])[C:6]([H:12])=[C:7]2[H:13])([H:14])([H:15])[H:16]>>[C:1]([c:4]1[n:2]([H:9])[c:3](/[C:5](=[N:8]\[H:10])[H:11])[c:6]([H:12])[c:7]1[H:13])([H:14])([H:15])[H:16],24.151847500016856
MR_162807_2,[C:1]([C:4]([C:2]([H:14])([H:15])[H:16])=[C:6](/[C:3]([N:5]([H:8])[H:9])=[N:7]\[H:10])[H:11])([H:12])([H:13])[H:17]>>[C:1]([C:4]1([C:2]([H:14])([H:15])[H:16])[C:6]([H:11])=[C:3]([N:5]([H:8])[H:9])[N:7]1[H:10])([H:12])([H:13])[H:17],56.77369000001491
MR_467734_2,[C:1]([C:3](=[C:2]([N:4]([H:7])[H:8])[N:5]([H:9])[H:10])[N:6]([H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:2](=[C:3]([N:5]([H:9])[H:10])[N:6]([H:11])[H:12])[N:4]([H:7])[H:8])([H:13])([H:14])[H:15],65.28133500000806
MR_653205_1,[C:1]([C:3](/[C:2]([N:4]=[O:6])=[N:5]/[H:8])=[O:7])([H:9])([H:10])[H:11]>>[C:1]([C:3]1([N:4]=[O:6])/[C:2](=[N:5]\[H:8])[O:7]1)([H:9])([H:10])[H:11],42.455394999996514
